US09163040B2
A: (R)-3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)butanoic acid
To a solution of (R)-4-(4-bromophenyl)-3-((tert-butoxycarbonyl)amino)butanoic acid (HBC2251, 14 g, 39 mmol) and 5-chloro-2-fluorophenylboronic acid (8.5 g, 49 mmol) in 300 mL H2O was added Na2CO3 (12.5 g, 118 mmol). This solution was warmed to 40° C. and 9 mL of THF was added followed by Pd(PPh3)2Cl2 (0.6 g, 0.86 mmol). The reaction mixture was then stirred at 60° C. for approximately 1 day. The reaction mixture was cooled to 23° C., and the THF was removed in vacuo. The resulting aqueous suspension was filtered through celite and the solids washed with H2O. The combined filtrate and H2O wash was then extracted with approximately 3:1 isopropyl acetate/acetone (400 mL). After separation, the organic layer was discarded. TBME (300 mL) was added to the aqueous layer followed by slow addition of 6N HCl (32 mL). The organic layer was then separated and filtered through celite. The solids were washed with TBME. The combined filtrate and washes were concentrated to an off-white solid (14.96 g, 36.7 mmol, 94% yield, approx. 96% UV purity by LCMS). LCMS (ES) C21H23ClFNO4: Calc.: 407.1; Found: 406.4[M−H]+.

reactant | (R)-4-(4-bromophenyl)-3-((tert-butoxycarbonyl)amino)butanoic acid | 39 mmol, 14 g | BrC1=CC=C(C=C1)C[C@H](CC(=O)O)NC(=O)OC(C)(C)C | C15H20BrNO4
reactant | 5-chloro-2-fluorophenylboronic acid | 49 mmol, 8.5 g | ClC=1C=CC(=C(C1)B(O)O)F | C6H5BClFO2
reactant | Na2CO3 | 118 mmol, 12.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | 9 mL | C1CCOC1 | C4H8O
solvent | H2O | 300 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.86 mmol, 0.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-3-((tert-butoxycarbonyl)amino)-4-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)butanoic acid | 94% yield | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C21H23ClFNO4
